US04705802
5-[5-(6-Phenylhexyl)-thien-2-yl]-valeric acid.
This compound is prepared analogously to Example 1b from: 22.8 g of methyl 5-[5-(1-oxo-6-phenylhexyl)-thien-2-yl]-valerate, 11.1 g of potassium hydroxide, 250 ml of triethylene glycol and 7.0 g of hydrazine hydrate.

reactant | methyl 5-[5-(1-oxo-6-phenylhexyl)-thien-2-yl]-valerate | 22.8 g | O=C(CCCCCC1=CC=CC=C1)C1=CC=C(S1)CCCCC(=O)OC | C22H28O3S
reactant | potassium hydroxide | 11.1 g | [OH-].[K+]
reactant | hydrazine hydrate | 7.0 g | O.NN
solvent | triethylene glycol | 250 ml | C(COCCOCCO)O | C6H14O4
product | 5-[5-(6-Phenylhexyl)-thien-2-yl]-valeric acid | C1(=CC=CC=C1)CCCCCCC1=CC=C(S1)CCCCC(=O)O | C21H28O2S
